Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdomnial pain, nausea
 
Major Surgical or Invasive Procedure:
cesarean section

 
History of Present Illness:
Ms. ___ is a ___ year old G2P1 at 36 weeks with a history of 
pre-term delivery at 27 weeks after PPROM, who presents with 
lower abdominal pain and nausea. The abdominal pain is like a 
twinge in her lower abdomen that comes and goes.
She also has pelvic pressure. She denies leaking fluid, vaginal 
bleeding. +active fetal movement. No tightening across lower 
abdomen.

 
Past Medical History:
PNC:
- ___ ___ by U/S
- O+/ab neg/RPRNR/HIV neg/HepBsAg neg/Rubella immune
- Screening: Low risk ___
- FFS: Notable for EIF (NIPT declined)
- GLT: wnl (106)
- Issues:
* Hx of pre-term delivery: On IM progesterone, most recent dose
on ___, started at 16 weeks. Per patient has one more dose
* Hx of pre-term cesarean section, breech, unknown scar: Desires
repeat cesarean section
* Anemia: Not taking PO iron. Had previously had plan for IV 
iron
infusion, as on ___ but not yet started

OBHx: G2P1
- G1: PPROM at 25 weeks, s/p cesarean section (unknown scar) at
___ at 27 weeks; 2#8oz, breech
- G2: current

GYNHx: h/o LSIL pap, chlamydia
PMH: denies
PSH: Cesarean section (unknown scar)

 
Social History:
Lives in shelter in ___

 
Physical Exam:
Exam: T 97.8, HR 103, BP 107/56
Gen: NAD
CV: RRR
Abd: soft, mildly distended, no rebound/guarding.
SVE: closed to fingertip/soft/50% -> unchanged after ___ hrs

TAUS: cephalic, AFI 12

FHT: 140s/mod var/+accels/no decels
TOCO: Uterine irritability

 
Pertinent Results:
___ 10:51PM   GLUCOSE-86 UREA N-5* CREAT-0.4 SODIUM-136 
POTASSIUM-4.1 CHLORIDE-104 TOTAL CO2-21* ANION GAP-15
___ 10:51PM   CALCIUM-8.6 PHOSPHATE-3.5 MAGNESIUM-1.4*
___ 10:51PM   WBC-17.7*# RBC-3.38* HGB-7.6* HCT-24.8* 
MCV-73* MCH-22.5* MCHC-30.7* RDW-20.2*
___ 10:51PM   PLT COUNT-273
___ 10:35PM   WBC-10.6 RBC-3.27* HGB-7.3* HCT-24.1* MCV-74* 
MCH-22.2* MCHC-30.2* RDW-19.3*
___ 10:35PM   PLT COUNT-___ year old G2 now P2 who presented at 37 weeks and 2 days, with 
history of a preterm delivery at 26 weeks after a preterm 
premature rupture of membranes, of which the operative note from 
delivery confirmed that the patient had a classical cesarean 
section.  The patient had presented to OB triage with decreased 
fetal movement.  Of note, the patient has been found in this 
pregnancy to have severe iron-deficiency anemia.  She had been 
given IV iron infusion about 2 weeks prior to presentation.  
Upon presentation, hematocrit was noted to be 24.  She was 
contracting on the monitor, but was comfortable.  However, given 
the fact that the patient had a history of a prior classical 
cesarean section, the decision was made to proceed with a repeat 
cesarean section at 37 weeks.  She received 2 units of packed 
red cells prior to the procedure.  There was a reassuring fetal 
status prior to the procedure. Please find below operative 
findings:
.
FINDINGS:
Liveborn male delivered from the cephalic presentation.  Normal 
tubes and ovaries bilaterally. Placenta intact with 3-vessel 
cord.  Infant weighed 3330 grams, with Apgars of 8 and 9
.
Fpr her postpartum course, her hematocrit was stable and she did 
not require further transfusions. She did have oliguria on POD#1 
which resolved after 500cc bolus and her lytes were normal. She 
received depo provera for contraception. By time of discharge, 
she was ambulating, voiding, tolerating POs, pain controlled. 
She was discharged on POD #4 with follow-up to be scheduled. 
 
Medications on Admission:
progesterone IM weekly, iron (not taking)

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q4H:PRN Pain 
Do not exceed 4g in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*50 Tablet Refills:*1
2. Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*50 Tablet Refills:*2
3. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every six (6) hours 
Disp #*50 Tablet Refills:*1
4. OxycoDONE Liquid ___ mg PO Q4H:PRN pain 
do not drive while taking oxycodone, may cause drowsiness, take 
with colace 
RX *oxycodone 5 mg/5 mL 5 mL by mouth every four (4) hours 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
cesarean section
liveborn male infant
iron deficiency anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

___ on the birth of your baby! Please find below 
discharge instructions:

Nothing in the vagina for 6 weeks (No sex, douching, tampons)
No heavy lifting for 6 weeks
Do not drive while taking Percocet
Do not take more than 4000mg acetaminophen (APAP) in 24 hrs
Do not take more than 2400mg ibuprofen in 24 hrs
Please call the on-call doctor at ___ if you develop 
shortness of breath, dizziness, palpitations, fever of 101 or 
above, abdominal pain, increased redness or drainage from your 
incision, nausea/vomiting, heavy vaginal bleeding, or any other 
concerns.

 
Followup Instructions:
___